US05824691
The mixture of methyl 5-amino-3-methylsulfonylbenzoate (1.5 g) and 2,5-dimethoxytetrahydrofuran (1.3 ml) in acetic acid (4.5 ml) was heated under reflux for 2 hours under stirring. After cooling, the mixture was poured into a mixture of ethyl acetate and water, and adjusted to pH 8 with 20% aqueous potassium carbonate solution. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was triturated with diisopropyl ether to give methyl 3-methylsulfonyl-5-(pyrrol-1-yl)benzoate (1.58 g).

reactant | methyl 5-amino-3-methylsulfonylbenzoate | 1.5 g | NC=1C=C(C=C(C(=O)OC)C1)S(=O)(=O)C | C9H11NO4S
reactant | 2,5-dimethoxytetrahydrofuran | 1.3 ml | COC1OC(CC1)OC | C6H12O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | methyl 3-methylsulfonyl-5-(pyrrol-1-yl)benzoate | 1.58 g | CS(=O)(=O)C=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H13NO4S
